US05245046
A mixture of 17.57 g (0.15 mole) of indole, 23.55 g (0.15 mole) of bromobenzene, 21 g of anhydrous potassium carbonate, 0.75 g of CuO, and 30 mL of DMF was stirred and heated under reflux for 43 hours. The cooled mixture was diluted with 200 mL of H2O and extracted with 150 mL of ether. The extract was washed with H2O (2×50 mL) and 50 mL of brine and dried over MgSO4. The oil was chromatographed on the solvent left 35.7 g of brown oil. The oil was chromatographed on a 1100 g column of silica gel. The column was eluted with 25% CH2Cl2 -Skellysolve B and 200 mL fractions were collected. The fractions were assayed by silica gel tlc (1×4") (25% CH2Cl2 -Skellysolve B). Fractions 15-22 were combined giving 5.86 g (20%) of 1-phenylindole as a yellow oil.

reactant | indole | 0.15 mole, 17.57 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | bromobenzene | 0.15 mole, 23.55 g | BrC1=CC=CC=C1 | C6H5Br
reactant | potassium carbonate | 21 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | H2O | 200 mL | O | H2O
product | 1-phenylindole | 5.86 g, 20% | C1(=CC=CC=C1)N1C=CC2=CC=CC=C12 | C14H11N
